US05192776
A solution of 4.0 g 4-(2,3,4,5,6-pentafluorophenoxy)piperidine in 100 ml of 95% ethanol was treated with 1.73 g of nitrourea and then stirred at 65° C. for five hours. After cooling to room temperature, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water followed by a saturated sodium chloride solution and dried over anhydrous magnesium sulfate. Filtration, followed by evaporation of the solvents afforded a residue which was purified by means of high pressure liquid chromatography (silica gel; elution with 5% methanol/dichloromethane). The resultant solid was recrystallized from hot isopropanol to yield 3.41 g (73.3%) of 1-aminocarbonyl-4-(2,3,4,5,6-pentafluorophenoxy)piperidine, m.p. 170°-172° C.

reactant | 4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 4.0 g | FC1=C(OC2CCNCC2)C(=C(C(=C1F)F)F)F | C11H10F5NO
reactant | nitrourea | 1.73 g | [N+](=O)([O-])NC(=O)N | CH3N3O3
reactant | water | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-aminocarbonyl-4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 3.41 g, 73.3% | NC(=O)N1CCC(CC1)OC1=C(C(=C(C(=C1F)F)F)F)F | C12H11F5N2O2
